US09315521B2
6-methyl-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidin-4-amine
In a 100 mL round bottom flask, 2-(bromomethyl)-1,3,4-trichlorobenzene (550 mg, 2.0 mmol), 4-amino-6-methylpyrimidine-2-thiol (282 mg, 2.0 mmol), and triethylamine (0.28 mL, 2.0 mmol) were mixed in ethanol (10 mL). The reaction mixture was stirred at room temperature for 2 hours. The solvent was evaporated. To the crude solid, water (50 mL) was added. The suspension was filtered and washed with water and ethyl acetate to provide a white solid (530 mg, 95% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.18 (s, 3H), 4.65 (s, 2H), 6.03 (s, 1H), 6.90 (br, 1H), 7.55 (d, 1H), 7.64 (d, 1H); M+334, 336.

reactant | 2-(bromomethyl)-1,3,4-trichlorobenzene | 2.0 mmol, 550 mg | BrCC1=C(C=CC(=C1Cl)Cl)Cl | C7H4BrCl3
reactant | 4-amino-6-methylpyrimidine-2-thiol | 2.0 mmol, 282 mg | NC1=NC(=NC(=C1)C)S | C5H7N3S
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-methyl-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidin-4-amine | 530 mg, 95% yield | CC1=CC(=NC(=N1)SCC1=C(C(=CC=C1Cl)Cl)Cl)N | C12H10Cl3N3S
